US04681883
2-[3-[3-(Dimethylaminomethyl)phenoxy]propylamino]benzthiazole
3-[3-(Dimethylaminomethyl)phenoxy]propylamine (2.38 g) and 2-chlorobenzthiazole (1.94 g) were fused at 130° C. for 2 hours. The cooled residue was subjected to column chromatography on silica using chloroform followed by chloroform:methanol (25:1) as eluants to give the title compound as a yellow oil. This was converted to 2-[3-[3-(dimethylaminomethyl)phenoxy]propylamino]benzthiazole dihydrochloride (0.37 g), m.p. 154°-155° C. (recrystallised from ethanol/ether).

reactant | 3-[3-(Dimethylaminomethyl)phenoxy]propylamine | 2.38 g | CN(C)CC=1C=C(OCCCN)C=CC1 | C12H20N2O
reactant | 2-chlorobenzthiazole | 1.94 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-[3-[3-(Dimethylaminomethyl)phenoxy]propylamino]benzthiazole | CN(C)CC=1C=C(OCCCNC=2SC3=C(N2)C=CC=C3)C=CC1 | C19H23N3OS
